US09399647B2
3-[4-(Cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-N,N-dimethyl-propionamide (Compound 48)
To a mixture of 3-[4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-propionic acid (0.2 g, 0.0006 mol) and EDC HCl (0.116 g, 0.0006 mol) in THF (10 ml) was added triethyl amine (0.122 g, 0.0012 mol), and the resulting mixture was stirred at R.T for 15 min. The dimethyl amine (0.0027 g, 0.0006 mol) in THF was added dropwise to the reaction mixture and stirring at R.T was continued for another 4 hrs. The solvent was removed; the reaction mixture was diluted with water and extracted with ethyl acetate (3×10 ml). The combined organic layers were dried over Na2SO4, concentrated. The crude material was subjected to column purification on 60-120 silica using ethyl acetate (50%) in hexane to give 0.05 g (51%) of the desired product as off-white solid. 1H NMR (400 MHz, CDCl3) δ ppm=0.43 (m, 2H), 0.69 (m, 2H), 1.75 (m, 2H), 1.89 (m, 2H), 2.85 (m, 7H), 2.94 (s, 3H), 3.0 (s, 3H), 3.05 (s, 3H), 3.20 (t, 2H). LC-MS: [M+H]=359.3.

reactant | 3-[4-(cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-propionic acid | 0.0006 mol, 0.2 g | C1(CC1)N(C=1C2=C(N=C(N1)CCC(=O)O)SC1=C2CCCC1)C | C17H21N3O2S
reactant | EDC HCl | 0.0006 mol, 0.116 g | CCN=C=NCCCN(C)C.Cl
reactant | triethyl amine | 0.0012 mol, 0.122 g | C(C)N(CC)CC | C6H15N
reactant | dimethyl amine | 0.0006 mol, 0.0027 g | CNC | C2H7N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 3-[4-(Cyclopropyl-methyl-amino)-5,6,7,8-tetrahydro-[1]benzothiopheno[2,3-d]pyrimidin-2-yl]-N,N-dimethyl-propionamide | 0.05 g, 51% | C1(CC1)N(C=1C2=C(N=C(N1)CCC(=O)N(C)C)SC1=C2CCCC1)C | C19H26N4OS
